US04844835
A THF solution of 0.1 mole of (L)-(-)-2-pentanol and 0.1 mole of triethylamine was stirred at 0° C., and a THF solution of 0.12 mole of 4-carbobenzoxyoxybenzoyl chloride was added dropwise. The temperature was returned to the room temperature slowly, and stirring was carried out for 8 hours. After the reaction, the reaction solution was ether extracted, dried, and concentrated, then purified by column chromatography, to obtain 4.4 g of 4-carbobenzoxyoxybenzoic acid 1-methylbutyl ester. (yield: 13%)

reactant | THF | C1CCOC1 | C4H8O
reactant | triethylamine | 0.1 mole | C(C)N(CC)CC | C6H15N
reactant | 4-carbobenzoxyoxybenzoyl chloride | 0.12 mole | C(=O)(OCC1=CC=CC=C1)OC1=CC=C(C(=O)Cl)C=C1 | C15H11ClO4
reactant | ether | CCOCC | C4H10O
product | 4-carbobenzoxyoxybenzoic acid 1-methylbutyl ester | 4.4 g, yield: 13% | CC(CCC)OC(C1=CC=C(C=C1)OC(=O)OCC1=CC=CC=C1)=O | C20H22O5
